US07935830B2
Step D. 2-Benzyl-5-methoxy-8-methylene-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
Methyltriphenylphosphonium bromide (18.1 g, 50.7 mmol) and potassium tert-butoxide (5.7 g, 50.7) were added to a solution of 2-benzyl-5-methoxy-2,3,3a,8a-tetrahydro-1H-2-aza-cyclopenta[a]inden-8-one (9.9 g, 33.8 mmol) in anhydrous ether (68 mL). The reaction mixture was stirred for 1 hour at room temperature then filtered through celite. The celite was washed with ether (200 mL), and the filtrate was concentrated. The crude product was purified by column chromatography (SiO2) using a 0-35% ethyl acetate-hexanes gradient to afford 8.1 g (82%-two steps) of the subtitle compound. MS calculated for C20H21NO+H: 292, observed: 292.

reactant | potassium tert-butoxide | 5.7 g | CC(C)([O-])C.[K+]
reactant | 2-benzyl-5-methoxy-2,3,3a,8a-tetrahydro-1H-2-aza-cyclopenta[a]inden-8-one | 33.8 mmol, 9.9 g | C(C1=CC=CC=C1)N1CC2C(C=3C=C(C=CC3C2=O)OC)C1 | C19H19NO2
catalyst | Methyltriphenylphosphonium bromide | 50.7 mmol, 18.1 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 68 mL | CCOCC | C4H10O
product | 2-Benzyl-5-methoxy-8-methylene-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C1=CC=CC=C1)N1CC2C(C1)C(C=1C=CC(=CC12)OC)=C | C20H21NO
